US20010041170A1
1.3.13.32 N,N′-Di-p-Toluenesulfonyl-1,4,7-triazacyclononane hydrobromide
From N,N′,N″-tris(p-toluenesulfonyl)-1,4,7-triazacyclononane (1.3.13.31 and HBr/acetic acid as the hydrobromide salt.

reactant | N,N′,N″-tris(p-toluenesulfonyl)-1,4,7-triazacyclononane | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C27H33N3O6S3
reactant | HBr acetic acid | Br.C(C)(=O)O
product | N,N′-Di-p-Toluenesulfonyl-1,4,7-triazacyclononane hydrobromide | Br.C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CCNCC1)S(=O)(=O)C1=CC=C(C=C1)C)C | InChI=1S/C20H27N3O4S2.BrH/c1-17-3-7-19(8-4-17)28(24,25)22-13-11-21-12-14-23(16-15-22)29(26,27)20-9-5-18(2)6-10-20;/h3-10,21H,11-16H2,1-2H3;1H
